Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ is a ___ year old woman, previously in good 
health, who presents with several days of severe, non-bloody 
diarrhea and 2 days of chest pain and fevers, as a transfer from 
___ for possible myocarditis. 

The patient's chest pain is sub-sternal which may radiate to a 
sensation of discomfort but not frank pain in her neck and is 
worse with deep inspiration, worsening both by leaning forward 
and by laying flat. No cough or dyspnea. After positive D-dimer 
was noted on labs, a CTA chest was done at ___ without 
evidence of PE, with mild PA trunk dilatation suggesting mild 
pulmonary HTN, but with an unremarkable pericardium. The lung 
parenchyma were unremarkable save for some mild posterior 
dependent micro-atelectasis. Trop elevated to 0.06, and is 
downtrending.

Regarding the diarrhea, she does not have abdominal pain but 
does have cramping. Bedside ultrasound at ___ revealed normal 
gallbladder and right kidney. She was given IVF, Benadryl, 
Reglan, Pepcid without relief. 

In the ED she was given morphine and acetaminophen. Trop-T 
checked and was 0.05, and WBC was 3.8. EKG without evidence of 
PR depression or ST elevation, showing sinus tachycardia. 

Upon arrival to the floor, the patient confirms the above 
history and the following details were elicited:

Her non-bloody diarrhea started on ___ after having 
a feeling of malaise the day before.  She initially thought it 
was related to going out to dinner on ___.  She had no 
appetite and was quite nauseous, but never vomited. By ___, 
the day prior to presentation, the frequency of the diarrhea had 
decreased significantly, and has now not had a bowel movement 
for about 18 hours.  She continues to report lack of appetite 
and mild nausea.

She reiterates that her chest pain began the night prior to 
presentation, ___, and worsened considerably over the course of 
the night, and that this is what brought her to medical 
attention. She confirms her pain pleuritic and sharp, and notes 
that she has been splinting as a result.  She is comfortable at 
rest, but movement either forward or backward.

She began having fevers on the evening of ___.  The fevers 
have been intermittent, and she reports her last fever was this 
(___) AM, although feels subjectively warm during the 
interview.
 
Past Medical History:
esophageal strictures
HLD
 
Social History:
___
Family History:
FAMILY HISTORY: 
Father with colon cancer, mother with asthma
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T 98.3 BP 132/55 HR 62 RR 16 97% on RA
WEIGHT: 82.6 kg   (182.1 lb)
GENERAL: well appearing woman in no acute distress
ENT: Neck veins flat
CV: RRR without murmurs, rubs, or gallops
RESP: Clear to auscultation bilaterally
ABD: Soft, non-tender, non-distended, bowel sounds present 
GU: No Foley
SKIN: without rashes
NEURO: grossly abnormal by observation
PSYCH: mood and affect appropriate

DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM:
VITALS: Tmax 99.1 BP 95-121/64-85 HR71-111 RR16-20 97-99% on RA
WEIGHT: 51.2 kg   (112.87 lb)  
GENERAL: well appearing woman in no acute distress
ENT: Neck veins flat
CV: RRR without murmurs, rubs, or gallops
RESP: Clear to auscultation bilaterally
ABD: Soft, non-tender, non-distended, bowel sounds present 
GU: No Foley
SKIN: without rashes
NEURO: grossly abnormal by observation
PSYCH: mood and affect appropriate

 
Pertinent Results:
ADMISSION
___ 10:20AM BLOOD WBC-3.8* RBC-3.19* Hgb-9.9* Hct-30.0* 
MCV-94 MCH-31.0 MCHC-33.0 RDW-12.0 RDWSD-41.8 Plt ___
___ 10:20AM BLOOD Neuts-67 Bands-4 ___ Monos-9 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-2.70 AbsLymp-0.76* 
AbsMono-0.34 AbsEos-0.00* AbsBaso-0.00*
___ 10:20AM BLOOD Glucose-77 UreaN-10 Creat-0.7 Na-139 
K-3.7 Cl-106 HCO3-18* AnGap-15
___ 10:20AM BLOOD cTropnT-0.05*
___ 06:32AM BLOOD CRP-122.0*

PERTINENT IMAGING
TTE ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Normal left ventricular wall thickness, cavity 
size, and regional/global systolic function (biplane LVEF = 55 
%). The estimated cardiac index is normal (>=2.5L/min/m2). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

 IMPRESSION: Normal biventricular wall thickness, cavity size, 
and regional/global systolic function. Normal diastolic function 
without pericardial effusion or pulmonary hypertension . Mild 
mitral regurgitation

CARDIAC MR:3 similar-appearing T2 hyperintense, lobulated, 
arterially hyperenhancing lesions are seen within segment 4A 
measuring 1.2 x 0.9 cm (1602:31), 0.8 x 0.6 cm within segment 2 
(1602:27), and 1.3 x 1.4 cm within segment 4B/3, likely 
hemangiomas. Mild right basilar atelectasis noted.  Small 
bilateral pleural effusions are noted.  Subcentimeter left renal 
cysts are noted.  There are no additional extracardiac findings. 

Cardiac final read pending.

DISCHARGE LABS
___ 07:10AM BLOOD WBC-4.9 RBC-3.57* Hgb-10.8* Hct-32.8* 
MCV-92 MCH-30.3 MCHC-32.9 RDW-12.1 RDWSD-41.1 Plt ___
___ 07:10AM BLOOD Glucose-79 UreaN-7 Creat-0.6 Na-141 K-3.8 
Cl-102 HCO3-20* AnGap-19*
 
Brief Hospital Course:
This is a ___ year old woman with a past medical history of 
esophageal strictures and hyperlipidemia who presents with 
positional and pleuritic chest pain after a resolving 
gastroenteritis concerning for viral pericarditis vs 
myocarditis.

ACUTE/ACTIVE PROBLEMS:
=============================================
# Pericarditis vs myocarditis. 
Ms. ___ presented with positional and pleuritic chest pain 
with troponin elevation in the setting of a viral 
gastroenteritis. EKG was without evidence of ischemia, CTA with 
without PE. She was initiated on ASA 650 TID and colchicine 0.6 
mg BID for pericarditis. TTE showed normal cardiac function, 
mild MR. ___ MRI was scheduled to evaluate for myocarditis, 
which showed pericarditis but no myocarditis on initial read. 
She was maintained on telemetry for continuous rhythm 
evaluation, and she remained in normal sinus rhythm throughout 
her hospitalization. Her chest pain resolved over the course of 
her hospitalization. She will be discharged on colchicine, an 
aspirin taper, and with cardiology follow up. It was recommended 
that she avoid heavy exercise until she is seen in cardiology 
clinic.

# Diarrhea, nausea
# Fevers: In the setting of gastroenteritis, fevers were likely 
viral in origin. Blood cultures were negative. No antibiotics 
were indicated. Nausea and diarrhea treated symptomatically.

# Leukopenia: Presented with WBC 3.8, likely suppressive in s/o 
viral illness. Differential was reassuring against malignancy. 
Trended daily.

CHRONIC/STABLE PROBLEMS:
=============================================
#Esophageal Strictures: Continued home pantoprazole at 40 mg 
daily- increased dose due to formulary reasons
#Dyslipidemia - Continued simvastatin 10 mg daily

TRANSITIONAL ISSUES: 
=====================================
NEW MEDICATIONS
 - Aspirin 650 mg TID
 - Colchicine 0.6 mg BID
STOPPED MEDICATIONS: none

[ ] Aspirin should be decreased to 650 mg BID on ___ for 
one week, then decreased to 650 mg daily on ___ for 
one week
[ ] Colchicine 0.6 mg should be continued for 6 months
[ ] Patient had incidental hepatic and renal masses on MRI. 
Please follow up with dedicated US. 

CODE STATUS: Full code (confirmed)
CONTACT: Husband ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 20 mg PO Q24H 
2. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 650 mg PO TID 
RX *aspirin 325 mg 2 tablet(s) by mouth As directed Disp #*84 
Tablet Refills:*0 
2.  Colchicine 0.6 mg PO DAILY 
RX *colchicine 0.6 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*6 
3.  Pantoprazole 20 mg PO Q24H  
4.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Pericarditis
Gastroenteritis
Leukopenia

SECONDARY DIAGNOSES
Esophageal stricture
Hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had chest pain.  We did a blood 
test and found that there was some damage to your heart.  You 
were admitted for further evaluation.

What happened while I was in the hospital?  
You were started on two medications to treat the inflammation in 
your heart, aspirin and colchicine.  You also had an 
echocardiogram of your heart, which showed that your heart is 
working well.  Finally, you had an MRI of your heart which 
showed inflammation in the lining of your heart but no 
inflammation in the heart muscle.  You were diagnosed with a 
condition called pericarditis which we are treating with 
anti-inflammatory medications. You will follow with Dr. ___ 
in clinic.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 
-  Please return to the hospital immediately with chest pain, 
shortness of breath, loss of consciousness, heart palpitations, 
or the feeling like you might faint.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 Your ___ Healthcare Team  

 
Followup Instructions:
___